US08030487B2
Synthesis of 2-Chloro-5-(Cyclohexanecarboxamido)Benzoic Acid (Intermediate 37)
A solution of 5-amino-2-chlorobenzoic acid (0.34 g, 2.0 mmol) in THF (10 mL) was charged with cyclohexanecarbonyl chloride (0.27 mL, 1.7 mmol). The reaction was stirred for 16 h and then concentrated in vacuo. The residue was suspended in DCM and filtered to afford the title compounds as a white solid (0.47 g, 97%).

reactant | 5-amino-2-chlorobenzoic acid | 2.0 mmol, 0.34 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | cyclohexanecarbonyl chloride | 1.7 mmol, 0.27 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-(Cyclohexanecarboxamido)Benzoic Acid | 0.47 g, 97% | ClC1=C(C(=O)O)C=C(C=C1)NC(=O)C1CCCCC1 | C14H16ClNO3
